US08476269B2
Intermediate B2: Amino-carbamimidoyl-acetic acid ethyl ester
To a solution of carbamimidoyl-nitroso-acetic acid ethyl ester (5.5 g, 31.4 mmol) in ethanol/5M HCl (1:1 ratio, 250 ml) was added 10% Pd/C (1.3 g). The reaction mixture was hydrogenated (H2(g)) at low pressure over 2 nights. The Pd/C was filtered through Celite® (filter material) and the filtrate reduced in vacuo to give the title compound as a white solid. This was taken through to the next step as crude.

reactant | carbamimidoyl-nitroso-acetic acid ethyl ester | 31.4 mmol, 5.5 g | C(C)OC(C(N=O)C(N)=N)=O | C5H9N3O3
solvent | ethanol | 5M, 250 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.3 g | [Pd] | Pd
product | Amino-carbamimidoyl-acetic acid ethyl ester | C(C)OC(C(C(N)=N)N)=O | C5H11N3O2
